US08383821B2
tert-Butyl 4-((3-bromo-5-nitrobenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate.
1-Bromo-3-(bromomethyl)-5-nitrobenzene (2.12 g, 7.21 mmol) and tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate (1.75 g, 6.0 mmol) were combined in dimethylformamide (18 mL) and cooled to 0° C. The reaction was treated with sodium hydride (288 mg, 12.0 mmol), stirred at 0° C. for 1 h, and at room temperature for 30 min. The reaction mixture was diluted with water and extracted with ethyl acetate (2×). The organic layers were pooled together, washed with brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (20% ethyl acetate/hexanes) gave 1.4 g (38%). 1H-NMR (CDCl3, 500 MHz) δ 8.20 (s, 1H), 7.88 (s, 1H), 7.50 (s, 1H), 7.33-7.38 (m, 4H), 4.37 (s, 2H), 3.75-3.78 (m, 2H), 3.43 (s, 2H), 3.00-3.04 (m, 2H), 2.20-2.22 (m, 2H), 1.82-1.87 (m, 2H), 1.42 (s, 9H). Mass spec.: 507.10 (MH)+.

reactant | 1-Bromo-3-(bromomethyl)-5-nitrobenzene | 7.21 mmol, 2.12 g | BrC1=CC(=CC(=C1)[N+](=O)[O-])CBr | C7H5Br2NO2
reactant | tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate | 6.0 mmol, 1.75 g | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H25NO3
reactant | sodium hydride | 12.0 mmol, 288 mg | [H-].[Na+]
solvent | dimethylformamide | 18 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-Butyl 4-((3-bromo-5-nitrobenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate | BrC=1C=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C(C1)[N+](=O)[O-] | C24H29BrN2O5
